US06569851B1
Step C: Synthesis of 3-(N′-(tert-Butoxycarbonyl)-L-alaninyl)amino-2,3-dihydro-1-(4,4,4-trifluorobutyl)-5-phenyl-1H-1,4-benzodiazepin-2-one
To a solution of HOBt-H2O (373 mg, 2.76 mmol), N,N-diisopropylethylamine (481 μL, 2.76 mmol) and N-t-BOC-L-alanine (522 mg, 2.76 mmol) in 10 mL of anhydrous THF at 0° C. was added 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride (EDCI; 527 mg, 2.76 mmol) in one portion. After stirring 5 min., a solution of 3-amino-2,3-dihydro-1-(4,4,4-trifluorobutyl)-5-phenyl-1H-1,4-benzodiazepin-2-one (1.05 g, 2.91 mmol) in 10 mL of anhydrous THF was added via syringe and the reaction mixture was warmed to room temperature and stirred overnight. The reaction mixture was diluted with 100 mL methylene chloride, extracted sequentially with 10% citric acid, saturated sodium bicarbonate, water and brine and then dried over sodium sulfate. Purification of the crude product using silica gel chromatography (10%-30% ethyl acetate/methylene chloride) gave 1.28 g (83%) of a white foam.

reactant | HOBt H2O | 2.76 mmol, 373 mg | C=1C=CC2=C(C1)N=NN2O.O
reactant | N,N-diisopropylethylamine | 2.76 mmol, 481 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N-t-BOC-L-alanine | 2.76 mmol, 522 mg | C[C@@H](C(=O)O)NC(=O)OC(C)(C)C | C8H15NO4
reactant | 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride | 2.76 mmol, 527 mg | Cl.CN(CCCN=C=NCC)C
reactant | 3-amino-2,3-dihydro-1-(4,4,4-trifluorobutyl)-5-phenyl-1H-1,4-benzodiazepin-2-one | 2.91 mmol, 1.05 g | NC1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)CCCC(F)(F)F)=O | C19H18F3N3O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 3-(N′-(tert-Butoxycarbonyl)-L-alaninyl)amino-2,3-dihydro-1-(4,4,4-trifluorobutyl)-5-phenyl-1H-1,4-benzodiazepin-2-one | 1.28 g, 83% | C(C)(C)(C)OC(=O)N[C@@H](C)C(=O)NC1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)CCCC(F)(F)F)=O | C27H31F3N4O4
